US04038396
Step A: Preparation of 6-methyl-3-nitro-2-pyridone
A solution of 24 g. of 2-amino-6-methyl-3-nitro-pyridine in 25 ml. of concentrated sulfuric acid and 380 ml. of water was cooled to 0° C. and treated with 11 g. of sodium nitrite in 25 ml. of water. The temperature spontaneously rose to 45° C. After cooling, the precipitate of 6-methyl-3-nitro-2-pyridone was collected (m.p. 222°-223° C.) and used directly in the next step.

reactant | 2-amino-6-methyl-3-nitro-pyridine | NC1=NC(=CC=C1[N+](=O)[O-])C | C6H7N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 6-methyl-3-nitro-2-pyridone | CC1=CC=C(C(N1)=O)[N+](=O)[O-] | C6H6N2O3
